US05614520
340 mg of 3-chlorothiobenzamide was dissolved in 10 ml of ethanol, 570 mg of diethyl bromomalonate was added to the solution, and the mixture was heated at 60° C. for 2 hours. After the reaction mixture was cooled, and the resulting crystal was collected by filtration and recrystallized from ethanol to give 408 mg of ethyl 2-(3-chlorophenyl)-4-hydroxy-5-thiazolecarboxylate. This product was hydrolyzed by a conventional process to give 306 mg of 2-(3-chlorophenyl)-4-hydroxy-5-thiazolecarboxylic acid (yield: 60%).

reactant | 3-chlorothiobenzamide | 340 mg | ClC=1C=C(C(=S)N)C=CC1 | C7H6ClNS
reactant | diethyl bromomalonate | 570 mg | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(3-chlorophenyl)-4-hydroxy-5-thiazolecarboxylate | 408 mg | ClC=1C=C(C=CC1)C=1SC(=C(N1)O)C(=O)OCC | C12H10ClNO3S
